US06509328B1
4-(3-Chloro-thiophen-2-yl)-8-(4-fluoro-phenyl)-1,3-dihydro-benzo [b][1,4]diazepin-2-one
Prepared from {3-[3-(3-chloro-thiophen-2-yl)-3-oxo-propionylamino]-4′-fluoro-biphenyl-4-yl}-carbamic acid tert.-butyl ester (Example K61) by treatment with TFA in CH2Cl2 according to the general procedure M. Obtained as a yellow solid (232 mg).

reactant | {3-[3-(3-chloro-thiophen-2-yl)-3-oxo-propionylamino]-4′-fluoro-biphenyl-4-yl}-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=CC=C(C=C1)F)NC(CC(=O)C=1SC=CC1Cl)=O)=O | C24H22ClFN2O4S
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-(3-Chloro-thiophen-2-yl)-8-(4-fluoro-phenyl)-1,3-dihydro-benzo [b][1,4]diazepin-2-one | 232 mg | ClC1=C(SC=C1)C1=NC2=C(NC(C1)=O)C=C(C=C2)C2=CC=C(C=C2)F | C19H12ClFN2OS
